US09162992B2
A solution of saturated Na2CO3 solution (45.0 mL) was added dropwise at room temperature to a solution of O-ethyl-hydroxylamine (1.76 g, 18.0 mmol) and di-tert-butyl dicarbonate (5.13 g, 23.67 mmol) in dichloromethane (45.0 mL) and stirred for 24 h. Water was added, the mixture pH was adjusted to 2 by adding 6N HCl, and the resulting system was extracted with dichloromethane (3×50 mL). The combined organic extracts were dried over Na2SO4 and evaporated. The crude product was purified by flash column chromatography using gradient elution from petroleum ether/EtOAc (98:2) to petroleum ether/EtOAc (95:5) to yield tert-butyl ethoxycarbamate (XCIII) (2.62 g, 90%). 400 MHz 1H NMR (DMSO-d6, ppm) 9.89 (1H, s) 3.72 (2H, q, J=7.0 Hz) 1.40 (9H, s) 1.10 (3H, t, J=7.0 Hz).

reactant | Na2CO3 | 45.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | O-ethyl-hydroxylamine | 18.0 mmol, 1.76 g | C(C)ON | C2H7NO
reactant | di-tert-butyl dicarbonate | 23.67 mmol, 5.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 6N | Cl | ClH
solvent | dichloromethane | 45.0 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | tert-butyl ethoxycarbamate | 2.62 g, 90% | C(C)ONC(OC(C)(C)C)=O | C7H15NO3
